US05656629
and (b) To 90% HNO3 (95 mL) at -10° to -15° C. was added 1-cyclopentyl-3-ethyl-6-(phenylmethyl)pyrazolo[3,4-d]pyrimidin-4-one (9.62 g, 30 mmol). The reaction mixture was stirred as such for 1.5 hours, and then was poured into ice water. A precipitate formed which was collected by filtration, recrystallized from ethyl acetate and dried at 100° C. and 0.2 mm Hg to afford 2.31 g of 1-cyclopentyl-3-ethyl-6-(4-nitrophenylmethyl)pyrazolo[3,4-d]pyrimidin-4-one, m.p. 221°-223° C. [labelled as Example 25 (a)]. The mother liquors were combined and concentrated in vacuo to afford a mixture of 1-cyclopentyl-3-ethyl-6-(2-nitrophenylmethyl)pyrazolo[3,4-d]pyrimidin-4-one and 1-cyclopentyl-3-ethyl-6-(3-nitrophenylmethyl]pyrazolo[3,4-d]pyrimidin-4-one [labelled as Example 25 (b)].

reactant | HNO3 | 95 mL | [N+](=O)(O)[O-] | HNO3
reactant | 1-cyclopentyl-3-ethyl-6-(phenylmethyl)pyrazolo[3,4-d]pyrimidin-4-one | 30 mmol, 9.62 g | C1(CCCC1)N1NC(=C2C1=NC(=NC2=O)CC2=CC=CC=C2)CC | C19H22N4O
product | 1-cyclopentyl-3-ethyl-6-(4-nitrophenylmethyl)pyrazolo[3,4-d]pyrimidin-4-one | 2.31 g | C1(CCCC1)N1NC(=C2C1=NC(=NC2=O)CC2=CC=C(C=C2)[N+](=O)[O-])CC | C19H21N5O3
